US09108984B2
Step A: Methyl 5-chloro-2-hydroxy-4-iodobenzoate
A solution of methyl 2-hydroxy-4-iodobenzoate (50 g, 0.18 mol) [Aldrich, 652636] in acetic acid (360 mL) was treated with N-chlorosuccinimide (29 g, 0.22 mol) and heated at 100° C. for 1 hour. The reaction mixture was cooled until the internal temperature was 19° C. and then the solid that precipitated was filtered, washed with cold acetic acid, and air dried. The solid was diluted with toluene and concentrated (2×200 mL) to remove residual acetic acid to give 34.8 g of the desired product. The filtrate was concentrated, and the residue was purified by flash column chromatography using ethyl acetate in hexanes (0%-20%) to give an additional 8.6 g of desired product (total yield=43 g, 77%). LCMS for C8H7ClIO3 (M+H)+: m/z=312.9; Found: 313.0.

reactant | methyl 2-hydroxy-4-iodobenzoate | 0.18 mol, 50 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
reactant | N-chlorosuccinimide | 0.22 mol, 29 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 360 mL | C(C)(=O)O | C2H4O2
product | Methyl 5-chloro-2-hydroxy-4-iodobenzoate | 34.8 g | ClC=1C(=CC(=C(C(=O)OC)C1)O)I | C8H6ClIO3
